US04073919
10.9 g of methyl 2-methyl-5-thiazole-propanoate in 70 ml of tetrahydrofuran was slowly added with stirring at 10°-15° C to a mixture of 125 ml of tetrahydrofuran and 3.42 g of lithium aluminum hydride at 10° C and the mixture was stirred for about 30 minutes. Then, tetrahydrofuran containing 20% water was slowly added and the mixture was filtered. The filter was washed with ethyl acetate and the filtrate was dried over magnesium sulfate and concentrated under reduced pressure to obtain 8.4 g of raw product which was rectified under reduced pressure to obtain 6.4g of 2-methyl-5-thiazole propanol with a boiling point of 106° C under 0.05 mm Hg.

reactant | methyl 2-methyl-5-thiazole-propanoate | 10.9 g | CC=1SC(=CN1)CCC(=O)OC | C8H11NO2S
reactant | lithium aluminum hydride | 3.42 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 125 ml | O1CCCC1 | C4H8O
product | 2-methyl-5-thiazole propanol | 6.4g | CC=1SC(=CN1)CCCO | C7H11NOS
